US07897767B2
Triethylamine (4.6 mL, 33.1 mmol) was added to a solution of N-hydroxyphthalimide (2.16 g, 13.2 mmol) in DMF (10 mL). A solution of tert-butyl[3-(4-amino-2-chloromethyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]carbamate (4.3 g, 11.0 mmol) in DMF (20 ml) was added. The reaction was stirred at ambient temperature for 3.5 hours and then diluted with water (100 mL). The resulting precipitate was isolated by filtration, washed with water, and then dried in a vacuum oven at 60° C. over the weekend to provide 4.25 g of tert-butyl (3-{4-amino-2-[(1,3-dioxo-1,3-dihydroisoindol-2-yl)oxymethyl]-1H-imidazo[4,5-c]quinolin-1-yl}propyl)carbamate as a light yellow solid.

reactant | Triethylamine | 33.1 mmol, 4.6 mL | C(C)N(CC)CC | C6H15N
reactant | N-hydroxyphthalimide | 13.2 mmol, 2.16 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | tert-butyl[3-(4-amino-2-chloromethyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]carbamate | 11.0 mmol, 4.3 g | C(C)(C)(C)OC(NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCl)=O | C19H24ClN5O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | tert-butyl (3-{4-amino-2-[(1,3-dioxo-1,3-dihydroisoindol-2-yl)oxymethyl]-1H-imidazo[4,5-c]quinolin-1-yl}propyl)carbamate | 4.25 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNC(OC(C)(C)C)=O)CON2C(C1=CC=CC=C1C2=O)=O | C27H28N6O5
